US04864055
(i) N-vinylsulfonyl-2-ethoxypyrrolidine (VSEP)
To a vigorously stirred mixture of 25.7 g (0.158 mol) of 2-chloroethanesulfonyl chloride in 100 mL of CH2Cl2 was slowly added a mixture of 25.4 g (0.158 mol) of aminobutyraldehyde diethyl acetal, 35 g (0.34 mol) of triethylamine and 50 mL of CH2Cl2. The temperature was maintained below 10° C. Stirring was continued for 2 h. The solution was filtered to remove solid Et3NHCl and extracted with 10 mL of 10% HCl (pH 3.0), then 10 mL of 4% NaHCO3. The organic layer was dried with MgSO4 and concentrated on a rotary evaporator to yield 25.7 g of brown liquid containing one major and one significant minor component by gc (~78% at 10.83 min, 8% at 9.12 min). Distillation of an aliquot on a kugelrohr apparatus (130° C., 0.5 torr) increased the ratio of the short retention time peak.

reactant | 2-chloroethanesulfonyl chloride | 0.158 mol, 25.7 g | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | aminobutyraldehyde diethyl acetal | 0.158 mol, 25.4 g | C(C)OC(C(CC)N)OCC | C8H19NO2
reactant | triethylamine | 0.34 mol, 35 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-vinylsulfonyl-2-ethoxypyrrolidine | 25.7 g | C(=C)S(=O)(=O)N1C(CCC1)OCC | C8H15NO3S
